data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_357754_1,[C:1](/[C:5]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:8])=[N:7]/[H:10])([C:6]([C:3]([H:16])([H:17])[H:18])=[O:9])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[C:5]([N:7][H:10])[C@@:6]1([C:3]([H:16])([H:17])[H:18])[O:9][C:4]([C:2]([H:13])([H:14])[H:15])=[O:8],68.52676500001806
MR_254961_1,[C:1]1([O:5][H:7])([H:9])[C:2]([H:10])([H:11])[N:6]1/[C:4](=[N:3]/[H:8])[H:12]>>[C:1]1([O:5][H:7])([H:9])[C:2]([H:10])([H:11])[N:6]=[C:4]([H:12])[N:3]1[H:8],32.64254999998144
MR_77297_0,[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])(/[C:5](=[N:8]/[O:7][H:9])[H:10])[O:6][C:2]([H:11])([H:12])[H:13]>>[C:1]1([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C:5]([O:6][C:2]([H:11])([H:12])[H:13])([H:10])[N:8]1[O:7][H:9],66.68066000004202
MR_10290_1,[C:1]([C:4](=[C:5]([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:18])[H:19])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C:4]1=[C:6]([H:8])[C:7]([H:18])([H:19])[C:5]1([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])([H:9])([H:10])[H:11],45.959982499994254
MR_421522_0,[C:1]([C:3]([H:15])([H:16])[H:17])([N:5]([C:2]([H:12])([H:13])[H:14])[O:7][H:9])(/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]/[H:11])[H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([N:5]([C:2]([H:12])([H:13])[H:14])/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]/[H:11])([O:7][H:9])[H:10],71.32102250002575
MR_47932_0,[C:1]1([H:8])([H:9])[C:2]([N:3]([H:5])[H:6])([H:10])[N:4]1[H:7]>>[C:1](/[C:2]([N:3]([H:5])[H:6])=[N:4]\[H:7])([H:8])([H:9])[H:10],69.46864250001205
MR_548254_1,[C:1]([N:4]([C:2]([H:16])([H:17])[H:18])/[C:7](=[N:9]/[H:11])[H:15])(/[C:5]([C:3]([H:19])([H:20])[H:21])=[C:6](\[O:8][H:10])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:4]([C:2]([H:16])([H:17])[H:18])[C:5]1([C:3]([H:19])([H:20])[H:21])[C:6](/[C:7](=[N:9]/[H:11])[H:15])([O:8][H:10])[H:14],67.6049674999912
MR_533344_0,[C:1]([N:2](/[N:4]=[N:5]/[H:8])[H:7])([C:3](=[O:6])[H:11])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:6])[H:11])[H:7])(/[N:4]=[N:5]/[H:8])([H:9])[H:10],57.26062999999826
MR_368063_1,[C:1]([C:2](/[C:3](=[N:4]/[H:10])[N:5]([H:9])[H:12])([C:6](=[O:8])[H:13])[O:7][H:11])([H:14])([H:15])[H:16]>>[C:1]([C:2]([C:3]([N:4]([H:10])[H:11])([N:5]([H:9])[H:12])[C:6](=[O:8])[H:13])=[O:7])([H:14])([H:15])[H:16],32.1995349999942
MR_653765_2,[C:1]([O:2][H:6])([O:3][H:7])(/[N:4]=[N:5]\[H:9])[H:8]>>[C:1](\[O:2][H:6])(=[N:4]/[N:5]([O:3][H:7])[H:9])[H:8],64.3476150000113
MR_561023_2,[C:1]([C:2]([N:4]([H:11])[H:12])([H:13])[H:14])([N:3]([H:9])[H:10])([O:5][H:7])[O:6][H:8]>>[C:1]([C:2]([O:6][H:8])([H:13])[H:14])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[O:5][H:7],47.10265999999848
MR_263075_1,[C:1]([N:5]([H:9])[H:10])(/[N:6]=[C:3](\[C:2]([H:13])([H:14])[H:15])[N:4]([H:7])[H:8])([H:11])[H:12]>>[C:1](=[N:6][C:3]([C:2]([H:13])([H:14])[H:15])([N:4]([H:7])[H:8])[N:5]([H:9])[H:10])([H:11])[H:12],64.10539999998079
MR_693633_1,[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([O:7][O:6][N:3]([H:8])[H:9])([H:10])[H:11]>>[C:1]([O:6][N:3]([H:8])[H:9])([O:7][C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([H:10])[H:11],48.573520000030186
MR_525978_2,[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([O:6][H:9])(/[N:7]=[C:5](/[C:3]([H:15])([H:16])[H:17])[H:11])[H:10]>>[C:1]([C:4]([C:2]([H:12])([H:13])[H:14])(/[N:7]=[C:5](\[C:3]([H:15])([H:16])[H:17])[H:11])[O:8][H:9])(=[O:6])[H:10],40.52771500001242
MR_658747_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:6]([C:4]([H:19])([H:20])[H:21])=[C:7](\[C:5]([H:22])([H:23])[H:24])[N:8]([H:11])[H:12])[O:9][H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:6]([C:4]([H:19])([H:20])[H:21])[C:7]([C:5]([H:22])([H:23])[H:24])([N:8]([H:11])[H:12])[O:9][H:10],47.33357999998617
MR_366532_0,[C:1]([N:9]/[C:6]([C:3]([H:18])([H:19])[H:20])=[C:4](\[C:5]([C:2]([H:15])([H:16])[H:17])[O:8][H:11])[O:7][H:10])([H:12])([H:13])[H:14]>>[C:1]([N:9]1[C@@:5]([C:2]([H:15])([H:16])[H:17])([O:8][H:11])[C:4]([O:7][H:10])=[C:6]1[C:3]([H:18])([H:19])[H:20])([H:12])([H:13])[H:14],46.62889750001753
MR_392743_0,[C:1]1([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:2]([C:6]([H:19])([H:20])[H:21])([H:10])[N:7]([O:8][H:9])[C:3]1([H:11])[H:12]>>[C:1]1([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:3]([H:11])([H:12])[N:7]1[C:2]([C:6]([H:19])([H:20])[H:21])([O:8][H:9])[H:10],64.62245999995943
MR_129789_0,[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:5]([H:10])=[N:7][C:4]([C:3]([H:13])([H:14])[H:15])=[N:6]1>>[C:1]1([H:8])([H:9])[C:2]2([H:12])[C:5]([H:10])([H:11])[N:7]=[C:4]([C:3]([H:13])([H:14])[H:15])[N:6]12,62.3615774999962
MR_562632_0,[C:1](/[C:2](=[N:4]\[O:3][H:7])[H:10])([N:5]=[O:6])([H:8])[H:9]>>[C:1](=[C:2]([N:4]([O:3][H:7])[N:5]=[O:6])[H:10])([H:8])[H:9],28.256324999998128
